US07176324B1
A reaction flask was charged with 100 mL of lithium diisopropyl amide (LDA, available from Aldrich Chemical Company) (2M in heptane/THF) and cooled to 0° C. 1,1,2,3,3-Pentamethyl-tetrahydro-4-indanol, as described in U.S. Pat. No. 3,636,165, 40 g (0.19 mole) was added in portions to the LDA solution. The reaction was aged 30 minutes then 18.5 g (0.2 mole) of ethoxy methyl chloride was added to the reaction mass at 0° C. The mass was allowed to exotherm to 25° C. The reaction was quenched with 100 g of 10% aqueous sodium carbonate. The mass was transferred to a separatory funnel and water washed. The organic layer was distilled. The procedure afforded a 60% yield (30 g) of 1,1,2,3,3-pentamethyl-hexahydro-4-(ethoxymethoxy)-1H-indene.

reactant | 1,1,2,3,3-Pentamethyl-tetrahydro-4-indanol | CC1(C(C(C2C(CCC=C12)O)(C)C)C)C | C14H24O
reactant | ethoxy methyl chloride | 0.2 mole, 18.5 g | C(C)OCCl | C3H7ClO
solvent | lithium diisopropyl amide | 2M, 100 mL | C(C)(C)[N-]C(C)C.[Li+]
product | 1,1,2,3,3-pentamethyl-hexahydro-4-(ethoxymethoxy)-1H-indene | 30 g, 60% yield | CC1(C(C(C2C(CCCC12)OCOCC)(C)C)C)C | C17H32O2
